US06946554B2
2-Cyano-3-cyclohexylpropionaldehyde dimethylacetal
3-Cyclohexyl-2-dimethoxymethylacrylonitrile, obtained from Example 3 (8.3 g, 0.04 mol), methanol (100 mL) and 10% palladium on carbon (0.3 g) were shaken together in a Parr bottle under 50 psig hydrogen pressure for 30 minutes. The catalyst was removed by filtration and the methanol was evaporated in vacuo to give the product as a pale-yellow oil (8.3 g, 100%).

reactant | 3-Cyclohexyl-2-dimethoxymethylacrylonitrile | C1(CCCCC1)C=C(C#N)C(OC)OC | C12H19NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 2-Cyano-3-cyclohexylpropionaldehyde dimethylacetal | 8.3 g, 100% | COC(C(CC1CCCCC1)C#N)OC | C12H21NO2
